US05856529
Step 4: Ethyl 2-(3-cyanopropyl)-3-benzyloxybenzoate
A mixture of ethyl 2-(3-methanesulfonyloxypropyl)-3-benzyloxybenzoate (19.42 g, 31.7 mmol) and potassium cyanide (2.28 g, 35 mmol) in DMF (50 ml) was heated at 100° C. for 8 hr. The mixture was cooled, diluted with water (250 ml), and extracted three times with ethyl acetate. The ethyl acetate extracts were dried with brine, and concentrated in vacuo. The crude product was chromatographed on silica gel using methylene chloride as the eluent to give the product as an oil (5.25 g, 53%).

reactant | ethyl 2-(3-methanesulfonyloxypropyl)-3-benzyloxybenzoate | 31.7 mmol, 19.42 g | CS(=O)(=O)OCCCC1=C(C(=O)OCC)C=CC=C1OCC1=CC=CC=C1 | C20H24O6S
reactant | potassium cyanide | 35 mmol, 2.28 g | [C-]#N.[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | 250 ml | O | H2O
product | Ethyl 2-(3-cyanopropyl)-3-benzyloxybenzoate | 5.25 g, 53% | C(#N)CCCC1=C(C(=O)OCC)C=CC=C1OCC1=CC=CC=C1 | C20H21NO3
